US05234936
The preparation of 5,6,7,8-tetrahydro-N-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]-2-(trifluoromethyl)-4-quinazolinamine
To 10 mL of a 5:1 mixture of n-butanol/methanol were added 1.42 g of 4-chloro-5,6,7,8-tetrahydro-2-trifluoromethylquinazoline, 1.73 g of N-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]amine hydrochloride and 2.7 g of sodium acetate. The resulting mixture was heated at reflux for 5 days and then cooled to room temperature. All solvents were removed by evaporation and the resulting residue was purified on silica to yield 1.35 g (50%) of the desired product. The compound was characterized as its potassium salt: 1H NMR (DMSO-d6, 400 MHz) δ 7.78 (t, J=6.0 Hz, 1H), 7.50 (m, 1H), 7.32 (m, 3H), 7.15 (m, 2H), 7.03 (m, 2H), 4.57 (d, J=6.0 Hz, 2H), 2.61 (m, 2H), 2.38 (m, 2H, 1.75 (m, 4H); negative FAB-MS m/e 488(M-H), 450(M-K). Anal. calcd for C23H19F3KN7.0.5H2O: C, 55.41; H, 4.04; N, 19.67. Found: C, 55.66; H, 4.09; N, 19.46.

reactant | 4-chloro-5,6,7,8-tetrahydro-2-trifluoromethylquinazoline | 1.42 g | ClC1=NC(=NC=2CCCCC12)C(F)(F)F | C9H8ClF3N2
reactant | N-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]amine hydrochloride | 1.73 g | Cl.N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CN
reactant | sodium acetate | 2.7 g | C(C)(=O)[O-].[Na+]
solvent | n-butanol methanol | C(CCC)O.CO
product | 5,6,7,8-tetrahydro-N-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]-2-(trifluoromethyl)-4-quinazolinamine | 1.35 g, 50% | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CNC1=NC(=NC=2CCCCC12)C(F)(F)F | C23H20F3N7
